US08487093B2
Step 2: Benzyl 4-aminopiperidine-1-carboxylate
4-(N—BOC amino)-CBz piperidine (24.4 kg 73.42 mol), THF (65 kg) and 5 M HCl (23.0 kg, 110.13 mol) were combined and heated to 30-35° C. for ˜2 hours, and then at 55° C. overnight. After cooling the reaction mixture to 10° C., dichloromethane (97 kg) and 10M NaOH (7.97 kg, 145.12 mol) were added, while keeping the temperature at <25° C. The phases were separated and the organic phase was washed with 25 wt % NaCl solution (27.5 kg). The washed organic phase was distilled at atmospheric pressure to a volume of 70 L. Dichloromethane (162 kg) was then added, and the mixture was concentrated by distillation to a volume of 120 L to give the title product as a solution in DCM (17.2 kg. 100%.). 1H NMR (CDCl3) 7.33 (5H, m), 5.14 (2H, s), 4.14 (2H, br s), 2.87 (3H, m), 1.83 (2H, m), 1.66 (3H, m) and 1.28 (2H, m).

reactant | 4-(N—BOC amino)-CBz piperidine | 73.42 mol, 24.4 kg | C(=O)(OC(C)(C)C)NC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H26N2O4
reactant | THF | 65 kg | C1CCOC1 | C4H8O
reactant | HCl | 110.13 mol, 5 M, 23.0 kg | Cl | ClH
reactant | NaOH | 145.12 mol, 10M, 7.97 kg | [OH-].[Na+]
solvent | dichloromethane | 97 kg | ClCCl | CH2Cl2
product | Benzyl 4-aminopiperidine-1-carboxylate | NC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H18N2O2
